US06936602B1
In THF (14.0 ml) was dissolved methyl 7-[4-(2-butoxyethoxy)phenyl]-2,3-dihydro-1-benzazepine-4-carboxylate (0.70 g). To the solution was added 60% sodium hydride (142 mg) at 0° C., and the mixture was stirred at room temperature for 1 hour. To the mixture was added 1-bromo-3-methyl-2-butene (0.83 ml), and the mixture was stirred at 60° C. for 60 hours. After cooled to room temperature, the mixture was added to water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried with magnesium sulfate. The solvent was removed under reduced pressure, and the resulting residue was purified with silica gel column chromatography (hexane/ethyl/acetate=4/1) to give methyl 7-[4-(2-butoxyethoxy)phenyl]-1-(3-methyl-2-butenyl)-2,3-dihydro-1-benzazepine-4-carboxylate (0.71 g).

reactant | methyl 7-[4-(2-butoxyethoxy)phenyl]-2,3-dihydro-1-benzazepine-4-carboxylate | 0.70 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2)C(=O)OC)C1 | C24H29NO4
reactant | sodium hydride | 142 mg | [H-].[Na+]
reactant | 1-bromo-3-methyl-2-butene | 0.83 ml | BrCC=C(C)C | C5H9Br
reactant | water | O | H2O
solvent | THF | 14.0 ml | C1CCOC1 | C4H8O
product | methyl 7-[4-(2-butoxyethoxy)phenyl]-1-(3-methyl-2-butenyl)-2,3-dihydro-1-benzazepine-4-carboxylate | 0.71 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2CC=C(C)C)C(=O)OC)C1 | C29H37NO4
